US05440044
2[(2RS)-2-Hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-pyridine
Under the conditions of example 24D, 96 mg of 2-bromo-6[(2RS)-2-hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-pyridine and 160 mg of (1E)-1-(tri-n-butylstannyl)-1-undecen-(3RS)-3-ol in 1 ml of toluene is reacted in the presence of 1,1'-bis-(diphenylphosphino)-ferrocene-palladium(II) chloride as catalyst and worked up. The crude product is chromatographed on silica gel with hexane/0-25% ethyl acetate. 20 mg of the title compound is obtained as wine-red oil.

reactant | 2-bromo-6[(2RS)-2-hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-pyridine | 96 mg | BrC1=NC(=CC=C1)CC(C1=CC(=CC=C1)CO)O | C14H14BrNO2
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1'-bis-(diphenylphosphino)-ferrocene palladium(II) chloride | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].[Pd](Cl)Cl
product | 2[(2RS)-2-Hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-pyridine | 20 mg | OC(CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)C1=CC(=CC=C1)CO | C25H35NO3
